US08633206B2
trans-(R)-1-((4-(methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)cyclohexyl)methylsulfonyl)piperidin-3-yl pivalate
A mixture of trans-(R)-1-((4-(methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)cyclohexyl)methylsulfonyl)piperidin-3-ol (0.400 g, 0.98 mmol), DMF (10 mL), and DIEA (0.25 mL, 1.4 mmol) was treated with pivaloyl chloride (0.10 mL, 0.81 mmol) and the mixture stirred at ambient temperature overnight. The mixture was concentrated and the resulting residue chromatographed over SiO2 using 0→5% MeOH in CH2Cl2. The desired product fractions were pooled and concentrated to afford the title compound (0.182 g, 38%). MS for C24H37N5O4S (ESI) (MH)+ m/z=492.

reactant | trans-(R)-1-((4-(methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)cyclohexyl)methylsulfonyl)piperidin-3-ol | 0.98 mmol, 0.400 g | CN([C@@H]1CC[C@H](CC1)CS(=O)(=O)N1C[C@@H](CCC1)O)C=1C2=C(N=CN1)NC=C2 | C19H29N5O3S
reactant | DIEA | 1.4 mmol, 0.25 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | pivaloyl chloride | 0.81 mmol, 0.10 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | trans-(R)-1-((4-(methyl(7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)cyclohexyl)methylsulfonyl)piperidin-3-yl pivalate | 0.182 g, 38% | C(C(C)(C)C)(=O)O[C@H]1CN(CCC1)S(=O)(=O)C[C@@H]1CC[C@H](CC1)N(C=1C2=C(N=CN1)NC=C2)C | C24H37N5O4S
